US04107307
3-[(2-Benzyl-4-imidazolyl)methylene]carbazic acid ethyl ester
To a 37.2 gm. portion of 2-benzyl-4-imidazolecarboxaldehyde in 200 ml. of ethanol is added 20.8 gm. of ethyl carbazate and a few drops of concentrated acetic acid. The mixture is reacted as described in Example 32 giving the desired product m.p. 184°-185° C.

reactant | 2-benzyl-4-imidazolecarboxaldehyde | C(C1=CC=CC=C1)C=1NC=C(N1)C=O | C11H10N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 3-[(2-Benzyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)CC1=CC=CC=C1)=O | C14H16N4O2
